US04616008
Acetonitrile (200 ml) is warmed to 60° C. and in this solvent is dissolved 35 g of sodium iodide. To this solution is added 12 g of 1-chloro-2-methylpropyl 3-methylbutyrate as obtained by the above procedure (a), and the mixture is stirred for 40 minutes, poured into 500 ml of ice water and extracted with hexane. The extract is washed with water and then with 5% aqueous sodium thiosulfate and dried over anhydrous magnesium sulfate. The solvent is then distilled off under reduced pressure to give 10 g of 1-iodo-2-methylpropyl 3-methylbutyrate.

reactant | sodium iodide | 35 g | [I-].[Na+]
reactant | 1-chloro-2-methylpropyl 3-methylbutyrate | 12 g | CC(CC(=O)OC(C(C)C)Cl)C | C9H17ClO2
solvent | Acetonitrile | 200 ml | C(C)#N | C2H3N
product | 1-iodo-2-methylpropyl 3-methylbutyrate | 10 g | CC(CC(=O)OC(C(C)C)I)C | C9H17IO2
